US04255573
Preparation of pyrimidino(2',1':2,3)imidazo(4,5-b)indole
A mixture of 9.0 g of analytically pure 3-nitroso-2-phenylimidazo(1,2-a)pyrimidine (0.04 mol) and 10 ml of 97% triethylphosphite (0.05 mol) in 50 ml of anhydrous toluene is refluxed for 1 hour with stirring and under a constant flow of dry nitrogen gas. The temperature of the oil bath is kept between 110° and 120° C. After cooling the solvent and excess triethylphosphite are removed by vacuum distillation at 0.2 Torr. The temperature of the oil bath was kept under 120° C. during the distillation. The residue, which is a thick liquid, is kept overnight at 0° C. during which time it solidifies. The solid is washed on a glass filter with cold carbon tetrachloride and then recrystallized from CCl4. Yield about 5 g, m.p. 96° to 98° C.

reactant | 3-nitroso-2-phenylimidazo(1,2-a)pyrimidine | 0.04 mol | N(=O)C1=C(N=C2N1C=CC=N2)C2=CC=CC=C2 | C12H8N4O
reactant | triethylphosphite | 0.05 mol, 10 ml | C(C)OP(OCC)OCC | C6H15O3P
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | pyrimidino(2',1':2,3)imidazo(4,5-b)indole | N1=CC=CN2C1=NC1=C2NC=2C=CC=CC12 | C12H8N4
